US06949653B2
To a reactor was charged racemic-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxo-hexyl)-1-isoindolinone (170 kg), 1,2-dimethoxyethane (730 L), tetrahydrofuran (THF, 990 L). The slurry was heated to 30° C. and a solution of potassium hydroxide (140 Kg) in water (1730 L) was added. The slurry was stirred at 34° C. for 34 hours. The solution was cooled to 20° C. and the lower aqueous layer was removed and replaced with water (1000 L). The solution was adjusted to pH 9.0 with 4N hydrochloric acid. The solution was vacuum distilled at 30° C. to remove the THF. Water (550 L) was added and the pH of the reaction was adjusted to 11.5 with 2N potassium hydroxide. The solution was filtered to remove residual racemic-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxo-hexyl)-1-isoindolinone. To the liquors was added methylene chloride (1200 L) and the pH was adjusted to 1.4 with 4N HCl. The aqueous layer was removed. The organic layer was washed with water (700 L) and the water was discarded. The organic layer was concentrated under vacuum and replaced with methanol (500 L). The slurry was cooled to 10° C., water was added (500 L), and the mixtrue was cooled to 0° C. The resulting precipitate was isolated by filtration and dried under vacuum at 50° C. to afford 150 kg (85%) of racemic-2-[1-(7-chloro-1,8-naphthyridin-2-ylamino)-6-methyl-3-oxo-heptyl]-benzoic acid as a white solid. DCl/MS: M+H+ at 426, 100%. M.P. 173-4° C. UV maxima at 236 nm, 268 nm, and 353 nm.

reactant | racemic-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxo-hexyl)-1-isoindolinone | 170 kg | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C23H22ClN3O2
reactant | 1,2-dimethoxyethane | 730 L | COCCOC | C4H10O2
reactant | tetrahydrofuran | 990 L | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 140 Kg | [OH-].[K+]
solvent | water | 1730 L | O | H2O
product | racemic-2-[1-(7-chloro-1,8-naphthyridin-2-ylamino)-6-methyl-3-oxo-heptyl]-benzoic acid | 150 kg, 85% | ClC1=CC=C2C=CC(=NC2=N1)NC(CC(CCC(C)C)=O)C1=C(C(=O)O)C=CC=C1 | C23H24ClN3O3
